US07858632B2
To a clear solution of 2-Isopropyl4-methoxy-1-(toluene-4-sulfonyl)-benzene (5.3 g, 16.56 mmol) in DCE (50 ml) was added acetyl chloride (2.0 g, 24.84 mmol) and AlCl3 (3.3 g, 24.84 mmol) at room temperature. The reaction mixture was stirred at room temperature for 16 hrs and quenched by H2O (10 ml). Ten minutes after quenching, the aqueous solution was extracted into CH2Cl2. The combined extracts was washed with H2O, dried wover Na2SO4, filtered and concentrated. Flashed chromatography on silica gel (0 to 30% EtOAc in Hex) gave 1-[4-Isopropyl-2-methoxy-5-(toluene4-sulfonyl)-phenyl]-ethanone (4.7 g, 79%) as white solid.

reactant | 2-Isopropyl4-methoxy-1-(toluene-4-sulfonyl)-benzene | 16.56 mmol, 5.3 g | C(C)(C)C1=C(C=CC(=C1)OC)S(=O)(=O)C1=CC=C(C=C1)C | C17H20O3S
reactant | acetyl chloride | 24.84 mmol, 2.0 g | C(C)(=O)Cl | C2H3ClO
reactant | AlCl3 | 24.84 mmol, 3.3 g | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | DCE | 50 ml | ClCCCl | C2H4Cl2
product | 1-[4-Isopropyl-2-methoxy-5-(toluene4-sulfonyl)-phenyl]-ethanone | 4.7 g, 79% | C(C)(C)C1=CC(=C(C=C1S(=O)(=O)C1=CC=C(C=C1)C)C(C)=O)OC | C19H22O4S
